US04904786
(A) 1-(1,3-dioxolan-2-yl)-3-hydroxybenzene
To a solution of 3-hydroxybenzaldehyde (91.6 g, 0.75 mol) in 500 ml toluene is added ethylene glycol (333.0 g, 5.3 mol) and p-toluenesulfonic acid (0.19 g, 0.001 mol). The flask is equipped with a Dean-Stark trap and the mixture is refluxed for 2 days, extracted with saturated sodium bicarbonate solution and the organic phase separated and dried (MgSO4). Filtration and evaporation of solvent gives the title product as an oil (80.3 g, 64% yield).

reactant | 3-hydroxybenzaldehyde | 0.75 mol, 91.6 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | ethylene glycol | 5.3 mol, 333.0 g | C(CO)O | C2H6O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.001 mol, 0.19 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(1,3-dioxolan-2-yl)-3-hydroxybenzene | 80.3 g, 64% yield | O1C(OCC1)C1=CC(=CC=C1)O | C9H10O3
